US06727264B1
N-(3-{1-[2-(5-METHOXY-2-PHENYL-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide and 1-(4-methoxyphenyl)hydrazine hydrochloride: ESMS m/e: 496.2 (M+H)+.

reactant | 2-methyl-N-{3-[1-(4-oxo-4-phenylbutyl)-4-piperidinyl]phenyl}propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCC(C1=CC=CC=C1)=O)C | C25H32N2O2
reactant | 1-(4-methoxyphenyl)hydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
product | N-(3-{1-[2-(5-METHOXY-2-PHENYL-1H-INDOL-3-YL)ETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC=1C=C2C(=C(NC2=CC1)C1=CC=CC=C1)CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C32H37N3O2
